US04725610
A mixture of benzamide (60.0 g) and ethyl 4-chloroacetoacetate (49.4 g) was heated at 120° C. for 2 hours. After cooling, aqueous sodium bicarbonate solution was added thereto and the mixture was extracted with ethyl acetate. The extract was washed with water, dried (MgSO4) and concentrated. The residue was purified by chromatography on silica gel with ethyl ether-hexane (1:9) to yield ethyl 2-phenyl-4-oxazoleacetate as an oil (26.4 g, 28.0%). NMR (CDCl3)δ: 1.27 (3H, t, J=7 Hz), 3.68 (3H, s), 4.15 (2H, q, J=7 Hz), 7.4 (3H, m), 7.67 (1H, s), 8.0 (2H, m).

reactant | benzamide | 60.0 g | C(C1=CC=CC=C1)(=O)N | C7H7NO
reactant | ethyl 4-chloroacetoacetate | 49.4 g | ClCC(CC(=O)OCC)=O | C6H9ClO3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | ethyl 2-phenyl-4-oxazoleacetate | 26.4 g, 28.0% | C1(=CC=CC=C1)C=1OC=C(N1)CC(=O)OCC | C13H13NO3
